US08138187B2
1-(2-(1H-Indol-3-yl)ethyl)-3-phenyl-urea (Ind-101)
Tryptamine (1.04 g, 6.5 mmol) was dissolved in a mixture of acetone (20 ml) and triethylamine (1 ml) under a nitrogen atmosphere. Phenyl isocyanate (852 mg, 7.15 mmol, 0.78 ml) was swiftly added dropwise at 0° C. and the mixture was then subsequently stirred for 2 h, while cooling with ice, and at RT overnight. A subsequent TLC in chloroform/methanol 20:1 showed only small amounts still of tryptamine. The mixture was concentrated i. vac. The residue obtained was purified by flash chromatography with 100 g of silica gel and chloroform/methanol 50:1→9:1.

reactant | Tryptamine | 6.5 mmol, 1.04 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | Phenyl isocyanate | 7.15 mmol, 0.78 ml, 852 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 1-(2-(1H-Indol-3-yl)ethyl)-3-phenyl-urea | N1C=C(C2=CC=CC=C12)CCNC(=O)NC1=CC=CC=C1 | C17H17N3O
